US06770463B2
Preparation of Methyl (3R)-3-(4-chlorophenyl)-3-cyclopropyl-2-fluoropropanoate
To a stirred solution of lithium diisopropyl amide (30 mmol) in dry tetrahydrofuran (125 ml) under nitrogen at −78° C. is added dropwise a solution of methyl (3R)-3-(4-chlorophenyl)-3-cyclopropylpropanoate (6.5 g, 27.2 mmol) in dry tetrahydrofuran (50 ml). The reaction mixture is allowed to warm to 0° over 5 minutes, re-cooled to −78° C., and N-fluorobenzenesulfonimide (19.1 g, 60.6 mmol) is added.

reactant | lithium diisopropyl amide | 30 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl (3R)-3-(4-chlorophenyl)-3-cyclopropylpropanoate | 27.2 mmol, 6.5 g | ClC1=CC=C(C=C1)[C@H](CC(=O)OC)C1CC1 | C13H15ClO2
reactant | N-fluorobenzenesulfonimide | 60.6 mmol, 19.1 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Methyl (3R)-3-(4-chlorophenyl)-3-cyclopropyl-2-fluoropropanoate | ClC1=CC=C(C=C1)[C@H](C(C(=O)OC)F)C1CC1 | C13H14ClFO2
